US07230011B2
3-(1-Methylpiperidin-4-yl)-5-hydroxy-1H-indole
By a method similar to Preparation 20, using 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-hydroxy-1H-indole (1.25 g, 5.47 mmol) in dichloromethane (5 mL) trifluoroacetic acid (5 mL), triethylsilane (875 mL, 6.0 mmol) afforded 1.14 g (90%) of the title compound as a tan solid: mp=233-237° C.; 1H NMR (400 MHz, dmso-d6): 10.41 (br s, 1H), 8.52 (br s, 1H), 7.08 (d, 1H, J=8.0 Hz), 6.92 (d, 1H, J=2.0 Hz), 6.80 (d, 1H, J=2.0 Hz), 6.53 (dd, 1H, J=8.4, 2.0 Hz), 2.84 (br d, 2H, J=11.2 Hz), 2.63-2.50 (m, 1H), 2.19 (s, 3H), 2.08-1.97 (m, 2H), 1.85 (br d, 2H, J=12.0 Hz), 1.72-1.57 (m 2H); MS (ES+) m/e 231.0 (M+1).

reactant | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-hydroxy-1H-indole | 5.47 mmol, 1.25 g | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)O | C14H16N2O
reactant | triethylsilane | 6.0 mmol, 875 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(1-Methylpiperidin-4-yl)-5-hydroxy-1H-indole | 1.14 g, 90% | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C14H18N2O
